US04803200
β-[(2-Methoxyethyl)amino]-α-phenylbenzeneethanol.
A mixture of trans-stilbene oxide (3.93 g, 0.020 mole) and 2-methoxyethylamine (4.51 g, 0.060 mole) was heated at 125° C. for 2 hours with an oil bath. A mass spectra analysis showed no title compound was present. The mixture was heated for another 2 hours at 150° C. The mixture was poured into water (using methanol rinse) to obtain an off-white solid. NMR analysis showed the solid contained approximately 60% unreacted stilbene oxide. The mixture was added to another 4.51 g (0.060 mole) of 2-methoxy ethylamine and the mixture heated at 135° C. for 4 hours in a stainless-steel bomb. After cooling, the reaction mixture was shown by NMR analysis to contain 20% stilbene oxide and 80% of the title compound. The solid was recrystallized from toluene to give 2.92 g (54%) of a white solid, m.p. 137°-139° C.

reactant | trans-stilbene oxide | 0.020 mole, 3.93 g | C=1C=CC(=CC1)[C@@H]2[C@H](O2)C=3C=CC=CC3 | C14H12O
reactant | 2-methoxyethylamine | 0.060 mole, 4.51 g | COCCN | C3H9NO
product | β-[(2-Methoxyethyl)amino]-α-phenylbenzeneethanol | COCCNC(C(O)C1=CC=CC=C1)C1=CC=CC=C1 | C17H21NO2
